US05233046
Bis(4-fluorophenyl)acetylene
To potassium t-butoxide (1.5 g, 13.4 mmol) in DMF (15 mL) at 75° C. was added as quickly as possible and all at once [(4-fluorophenyl)methyl]-1-H-benzotriazole (1.14 g, 5 mmol) and (4-fluorophenyl)methylenebenzenamine (1.00 g, 5 mmol) dissolved in DMF (10 mL). Within a minute the solution is poured into ice-cold water (75 mL) crystallizing the title compound which was filtered and then chromatographed (PE). The acetylene 0.54 g (50%) recrystallizes as needles: mp 95°-96° C. (MeOH); (lit.1 94°-95° C.).

reactant | potassium t-butoxide | 13.4 mmol, 1.5 g | CC(C)([O-])C.[K+]
reactant | [(4-fluorophenyl)methyl]-1-H-benzotriazole | 5 mmol, 1.14 g | FC1=CC=C(C=C1)CN1N=NC2=C1C=CC=C2 | C13H10FN3
reactant | (4-fluorophenyl)methylenebenzenamine | 5 mmol, 1.00 g | FC1=CC=C(C=C1)C=NC1=CC=CC=C1 | C13H10FN
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Bis(4-fluorophenyl)acetylene | FC1=CC=C(C=C1)C#CC1=CC=C(C=C1)F | C14H8F2
